US08980875B2
Step 1: 3-benzyl-4,5-diphenyl-1-methylimidazolium bromide
In a 25 ml one-necked flask, there is dissolved 0.240 g (1.024 mmol) of 4,5-diphenyl-1-methylimidazole, which was obtained according to Zeitschrift fuer Naturforschung, B: Chemical Sciences (2003), 58(4), 305-310, in 10 ml of toluene and then 183 μl (1.536 mmol) of benzyl bromide are added. After 2 days of heating under reflux, the reaction medium is concentrated under reduced pressure. The residue is taken up in 50 ml of diisopropyl ether. The precipitate formed is drained, washed twice with 5 ml of diisopropyl ether and then dried under reduced pressure. There is thus obtained 0.480 g (100%) of 3-benzyl-4,5-diphenyl-1-methylimidazolium bromide, in the form of a yellow solid, used as it is in the next step, whose characteristic is the following:

reactant | 4,5-diphenyl-1-methylimidazole | 1.024 mmol, 0.240 g | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)C | C16H14N2
reactant | benzyl bromide | 1.536 mmol, 183 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-benzyl-4,5-diphenyl-1-methylimidazolium bromide | [Br-].C(C1=CC=CC=C1)N1C=[N+](C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C23H21N2.BrH/c1-24-18-25(17-19-11-5-2-6-12-19)23(21-15-9-4-10-16-21)22(24)20-13-7-3-8-14-20;/h2-16,18H,17H2,1H3;1H/q+1;/p-1
